### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus/IteratedDeriv): add affine composition lemmas

### PR DESCRIPTION
**Pull request by yuanyi-350**
This PR adds composition lemmas for `iteratedDerivWithin` and `iteratedFDerivWithin` on maps `𝕜 → F`, covering
`x ↦ f (-x)`, `x ↦ f (c + x)`, `x ↦ f (x + c)`, `x ↦ f (x - c)`, and `x ↦ f (c - x)`.

To support these statements, it also adds one-dimensional `fderivWithin` lemmas that do not require a `UniqueDiffWithinAt` hypothesis:
- `fderivWithin_zero_of_not_uniqueDiffWithinAt`
- `fderivWithin_const_smul_field'`
- `fderivWithin_neg'`
- `fderivWithin_comp_neg`

Finally, it rewrites `iteratedDeriv_comp_neg` to follow from the new Fréchet-derivative lemmas, and shortens two proofs in `ContDiff/FTaylorSeries` by replacing hand-written arguments with existing general lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 1]
```diff
@@ -205,6 +205,64 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
       derivWithin_const_mul _ differentiableWithinAt_id', derivWithin_id' _ _ (h _ hx),
       smul_smul, mul_one, pow_succ]
 
+open Pointwise
+
+omit hx h in
+lemma iteratedDerivWithin_comp_neg (hf : ContDiffOn 𝕜 n f s) (a : 𝕜) :
+    iteratedDerivWithin n (fun x ↦ f (-x)) s a = (-1 : 𝕜) ^ n • iteratedDerivWithin n f (-s) (-a)
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: - `hf` is not needed
- IMHO, we should have a lemma about `iteratedFDerivWithin`, that can be specialized here.
- please add `iteratedDeriv` versions of these lemmas

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 2]
```diff
@@ -205,6 +205,64 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+  | succ n ih =>
+    have ih' : iteratedDerivWithin n (fun x ↦ f (-x)) s =
+        fun x ↦ (-1 : 𝕜) ^ n • iteratedDerivWithin n f (-s) (-x) :=
+      funext fun x ↦ ih hf.of_succ x
+    rw [iteratedDerivWithin_succ, ih', pow_succ', neg_mul, one_mul,
+      derivWithin_comp_neg (f := fun x ↦ (-1 : 𝕜) ^ n • iteratedDerivWithin n f (-s) x),
+      derivWithin_fun_const_smul_field, neg_smul, ← iteratedDerivWithin_succ]
+
+omit hx h in
+theorem iteratedDerivWithin_comp_const_add (hf : ContDiffOn 𝕜 n f s) (c : 𝕜) :
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Same here about `hf`.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 3]
```diff
@@ -205,6 +205,64 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+omit hx h in
+theorem iteratedDerivWithin_comp_sub_const (hf : ContDiffOn 𝕜 n f s) (c : 𝕜) :
+    iteratedDerivWithin n (fun z => f (z - c)) s =
+    fun x ↦ iteratedDerivWithin n f (-c +ᵥ s) (x - c) := by
+  simpa only [sub_eq_add_neg] using iteratedDerivWithin_comp_add_const hf (-c)
+
+omit hx h in
+theorem iteratedDerivWithin_comp_const_sub (hf : ContDiffOn 𝕜 n f s) (c : 𝕜) :
+    iteratedDerivWithin n (fun z => f (c - z)) s =
+      fun x ↦ (-1 : 𝕜) ^ n • iteratedDerivWithin n f (c +ᵥ -s) (c - x) := by
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean:237]: You can deduce this lemma from the lemmas above.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean (hunk 1 above)
Comment (yuanyi-350) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: Thank you for your comments and suggestions!

1. I have already removed the unnecessary `hf` assumption – thanks for pointing that out.

2. Unfortunately, implementing `iteratedFDerivWithin` lemmas is not feasible at the moment, as the current `fderivWithin` API lacks the necessary support. e.g., `hasFDerivWithinAt_comp_neg` is missing (the counterpart of `hasFDerivWithinAt_comp_add_left`). Adding such lemmas would require substantial foundational work beyond the scope of this PR.

3. The `iteratedDeriv` versions of these lemmas have already existed in mathlib.

Comment (j-loreaux) [reply Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]: That "foundational work" is really not that far from what you're doing. It's not like Yury is asking you to do some work very far afield just in order to get this in. I think you should implement his suggestion by first adding the necessary `FDerivWithinAt` lemmas.

Basically, "we don't have the necessary lemmas" is not a good excuse for adding technical debt when those lemmas are close to the topic of the PR. That's just a normal part of formalizing.

If you give some reason why providing those lemmas is *especially* burdensome, then that may cause us to reconsider.

File: Mathlib/Analysis/Calculus/FDeriv/Add.lean [hunk 4]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.Analysis.Calculus.FDeriv.Linear
 public import Mathlib.Analysis.Calculus.FDeriv.Comp
 public import Mathlib.Analysis.Calculus.FDeriv.Const
+import Mathlib.Analysis.Calculus.Deriv.Basic
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Add.lean]: It feels weird to import this file, this does not correspond to the logical structure. Could you instead move the one lemma from this file that you need (`fderivWithin_zero_of_not_uniqueDiffWithinAt`) to a more reasonable place?

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 5]
```diff
@@ -999,3 +999,30 @@ lemma iteratedFDeriv_comp_sub' (n : ℕ) (a : E) :
 lemma iteratedFDeriv_comp_sub (n : ℕ) (a : E) (x : E) :
     iteratedFDeriv 𝕜 n (fun z ↦ f (z - a)) x = iteratedFDeriv 𝕜 n f (x - a) := by
   simp [iteratedFDeriv_comp_sub']
+
+lemma iteratedFDerivWithin_comp_neg {f : 𝕜 → F} {s : Set 𝕜} (n : ℕ) (a : 𝕜) :
+  iteratedFDerivWithin 𝕜 n (fun x ↦ f (-x)) s a
+    = (-1 : 𝕜) ^ n • iteratedFDerivWithin 𝕜 n f (-s) (-a) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean]: style
```suggestion
    iteratedFDerivWithin 𝕜 n (fun x ↦ f (-x)) s a
      = (-1 : 𝕜) ^ n • iteratedFDerivWithin 𝕜 n f (-s) (-a) := by
```

File: Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean [hunk 6]
```diff
@@ -999,3 +999,30 @@ lemma iteratedFDeriv_comp_sub' (n : ℕ) (a : E) :
...
+  induction n generalizing a with
+  | zero => simp [iteratedFDerivWithin]
+  | succ n ih =>
+    have ih' : iteratedFDerivWithin 𝕜 n (fun x => f (-x)) s
+      = fun a ↦ (-1 : 𝕜) ^ n • iteratedFDerivWithin 𝕜 n f (-s) (-a) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ContDiff/FTaylorSeries.lean]:
```suggestion
        = fun a ↦ (-1 : 𝕜) ^ n • iteratedFDerivWithin 𝕜 n f (-s) (-a) := by
```

File: Mathlib/Analysis/Calculus/FDeriv/Add.lean [hunk 7]
```diff
@@ -155,6 +155,17 @@ lemma fderivWithin_const_smul_field (c : R) (hs : UniqueDiffWithinAt 𝕜 s x) :
...
+lemma fderivWithin_const_smul_field' {s : Set 𝕜} {f : 𝕜 → F} {x : 𝕜} (c : R) :
+    fderivWithin 𝕜 (c • f) s x = c • fderivWithin 𝕜 f s x := by
+  by_cases hsx : UniqueDiffWithinAt 𝕜 s x
+  · exact fderivWithin_const_smul_field c hsx
+  · simp [fderivWithin_zero_of_not_uniqueDiffWithinAt hsx]
+
+omit [DivisionSemiring R] [Module R F] [SMulCommClass 𝕜 R F] [ContinuousConstSMul R F] in
+lemma fderivWithin_neg' {s : Set 𝕜} {f : 𝕜 → F} {x : 𝕜} :
+    fderivWithin 𝕜 (-f) s x = -fderivWithin 𝕜 f s x := by
+  simpa only [neg_smul, one_smul] using fderivWithin_const_smul_field' (f := f) (-1 : 𝕜)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Add.lean:168]: please add docstrings highighting that the difference with the unprimed version is that the domain is the scalar field. I had to scroll to the top of the file to find out.

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 8]
```diff
@@ -204,6 +204,40 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+
+omit hx h in
+lemma iteratedDerivWithin_comp_neg (a : 𝕜) : iteratedDerivWithin n (fun x ↦ f (-x)) s a
+    = (-1 : 𝕜) ^ n • iteratedDerivWithin n f (-s) (-a) := by
+  simp [iteratedDerivWithin, iteratedFDerivWithin_comp_neg n a]
+
+omit hx h in
+theorem iteratedDerivWithin_comp_const_add (c : 𝕜) :
+    iteratedDerivWithin n (fun z => f (c + z)) s =
+    fun x ↦ iteratedDerivWithin n f (c +ᵥ s) (c + x) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
      fun x ↦ iteratedDerivWithin n f (c +ᵥ s) (c + x) := by
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 9]
```diff
@@ -204,6 +204,40 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+  ext x
+  simp [iteratedDerivWithin, ← iteratedFDerivWithin_comp_add_left n c x]
+
+omit hx h in
+theorem iteratedDerivWithin_comp_add_const (c : 𝕜) :
+    iteratedDerivWithin n (fun z => f (z + c)) s =
+    fun x ↦ iteratedDerivWithin n f (c +ᵥ s) (x + c) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
      fun x ↦ iteratedDerivWithin n f (c +ᵥ s) (x + c) := by
```

File: Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean [hunk 10]
```diff
@@ -204,6 +204,40 @@ theorem iteratedDerivWithin_comp_const_smul (hf : ContDiffOn 𝕜 n f s) (c : 
...
+  ext x
+  simp [iteratedDerivWithin, ← iteratedFDerivWithin_comp_add_right n c x]
+
+omit hx h in
+theorem iteratedDerivWithin_comp_sub_const (c : 𝕜) :
+    iteratedDerivWithin n (fun z => f (z - c)) s =
+    fun x ↦ iteratedDerivWithin n f (-c +ᵥ s) (x - c) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/IteratedDeriv/Lemmas.lean]:
```suggestion
      fun x ↦ iteratedDerivWithin n f (-c +ᵥ s) (x - c) := by
```

**Review by j-loreaux — COMMENTED** [review]
seems reasonable, but there are a few things needed.

File: Mathlib/Analysis/Calculus/FDeriv/Add.lean (hunk 7 above)
Comment (yuanyi-350) [reply Mathlib/Analysis/Calculus/FDeriv/Add.lean:168]: Added docstrings for fderivWithin_neg and fderivWithin_neg' in `Mathlib/Analysis/Calculus/FDeriv/Add.lean`.

In particular, the docstring for fderivWithin_neg' now explicitly says that it is the special case of `fderivWithin_neg` where the domain is the scalar field (E = 𝕜), and the docstring for `fderivWithin_neg` points back to this distinction.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
